US04001237
4-Amino-6,7-dimethoxy-2-[4-(isothiazole-4-carbonyl)piperazin-1-yl)quinazoline Hydrochloride
The title compound was prepared from isothiazole-4-carbonyl chloride (1.01 g.) and 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (1.99 g.) following previously described procedures. The product had a m.p. of 286°-287° C. with decomposition.

reactant | isothiazole-4-carbonyl chloride | 1.01 g | S1N=CC(=C1)C(=O)Cl | C4H2ClNOS
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 1.99 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
product | 4-Amino-6,7-dimethoxy-2-[4-(isothiazole-4-carbonyl)piperazin-1-yl)quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1C=NSC1 | InChI=1S/C18H20N6O3S.ClH/c1-26-14-7-12-13(8-15(14)27-2)21-18(22-16(12)19)24-5-3-23(4-6-24)17(25)11-9-20-28-10-11;/h7-10H,3-6H2,1-2H3,(H2,19,21,22);1H
